US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(2,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60 from 105 mg (0.26 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 134 mg (0.58 mmol) of 2,6-dimethyl-5-iodo-pyridine in 1 mL THF with 0.30 mL 2M isopropylmagnesium chloride. Yield: 19 mg of a white powder. LC-MSD, m/z for C23H18BrN3O2 [M+H]+=448.0, 450.0; HPLC retention time: 1.2 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.26 mmol, 105 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C18H16BrN3O3
reactant | 2,6-dimethyl-5-iodo-pyridine | 0.58 mmol, 134 mg | CC1=NC(=C(C=C1)I)C | C7H8IN
reactant | isopropylmagnesium chloride | 2M, 0.30 mL | C(C)(C)[Mg]Cl
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(2,6-dimethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C(=NC(=CC1)C)C | C23H18BrN3O2
